US06090780
Benzyloxycarbonyl-L-histidyl-L-prolineamide (500 mg) was dissolved in a solution containing methanol (10 ml), H2O (0.3 ml) and glacial acetic acid (0.3 ml). After adding palladium black catalyst (100 mg), the suspension was hydrogenated under 40 pounds of pressure for 2 hours. The catalyst was then filtered and the resultant solution was heated in boiling water for 30 minutes, then dried in vacuo. After dissolving the product in water, it was purified by passage through a column (2×5 cm) of diethylaminoethylcellulose and subsequently washed with water. The Pauly positive fractions were concentrated to dryness in vacuo to yield crystalline L-histidyl-L-proline diketopiperazine (yield approximately 200 mg). Elemental analysis showed C, H, N, and O at 54.75%, 6.08%, 22.10% and 17.22% respectively. Theoretical calculated values for C, H, N and O are 53.91%, 6.25%, 22.86% and 16.97% respectively. Mass spectrographic analysis showed prominent ions at m/e 234, m/e 154, m/e 81 and m/e 70. Proton NMR showed chemical shifts at 1.95, 2.2, 3.4, 3.5, 4.65, 7.4, 8.25 ppm downfield from trimethylsilane. Amino acid analysis showed the presence of ninhydrin-positive material corresponding to only proline and histidine with a ratio of 1.1 to 1.

reactant | Benzyloxycarbonyl-L-histidyl-L-prolineamide | 500 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C19H23N5O4
reactant | methanol | 10 ml | CO | CH4O
reactant | H2O | 0.3 ml | O | H2O
catalyst | palladium black | 100 mg | [Pd] | Pd
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | L-histidyl-L-proline diketopiperazine | yield approximately 200 mg | O=C1C(NCCN1)=O.N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)O)CCC1 | InChI=1S/C11H16N4O3.C4H6N2O2/c12-8(4-7-5-13-6-14-7)10(16)15-3-1-2-9(15)11(17)18;7-3-4(8)6-2-1-5-3/h5-6,8-9H,1-4,12H2,(H,13,14)(H,17,18);1-2H2,(H,5,7)(H,6,8)/t8-,9-;/m0./s1
